US08114868B2
A mixture of 4-iodopyridin-2(1H)-one (0.2425 g, 1.10 mmol, 1.0 equiv), Cu(OAc)2 (0.2146 g, 1.18 mmol, 1.07 equiv), bipyridine (0.1832 g, 1.17 mmol, 1.07 equiv), cyclopropylboronic acid (0.2122 g, 2.47 mmol, 2.25 equiv) and Na2CO3 (0.2638 g, 2.49 mmol, 2.27 equiv) in dichloroethane (10 mL) was stirred at 70° C. for 18 h. The reaction mixture was quenched with satd aq NH4Cl, diluted with CH2Cl2, and dried over Na2SO4. After the solvent was removed under reduced pressure, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 0.2309 g (81%) of 1-cyclopropyl-4-iodopyridin-2(1H)-one.

reactant | 4-iodopyridin-2(1H)-one | 1.10 mmol, 0.2425 g, 1.0 equiv | IC1=CC(NC=C1)=O | C5H4INO
reactant | bipyridine | 1.17 mmol, 0.1832 g, 1.07 equiv | C=1C=CN=C(C1)C=2C=CC=CN2 | C10H8N2
reactant | cyclopropylboronic acid | 2.47 mmol, 0.2122 g, 2.25 equiv | C1(CC1)B(O)O | C3H7BO2
reactant | Na2CO3 | 2.49 mmol, 0.2638 g, 2.27 equiv | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
catalyst | Cu(OAc)2 | 1.18 mmol, 0.2146 g, 1.07 equiv | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 1-cyclopropyl-4-iodopyridin-2(1H)-one | 0.2309 g, 81% | C1(CC1)N1C(C=C(C=C1)I)=O | C8H8INO
